US08404690B2
To a suspension of piperazine-2-carboxylic acid dihydrochlorid (13.95 g, 68.70 mmol) in water/dioxane 1:1 (280 ml) at 0° C., NaOH 5 N (48 ml) was added to achieve complete dissolution. 4-tert-butylbenzenesulfonylchloride (17.586 g, 75.57 mmol) in dioxane (140 ml) was then added dropwise at 2° C. In 1 h. The reaction mixture was stirred overnight at 2° C. and over the week-end at room temperature. Solvents were removed in vacuo and the residue obtained was crystallized in EtOH to give 17.3 g of crude 4-(4-tert-butylphenyl-sulfonyl)piperazine-2-carboxylic acid. This material was dissolved in DCM (340 ml) and triethylamine (23 ml, 158 mmol) followed by di-tert-butyl-dicarboxylate (11.5 g, 52.7 mmol) were added. The mixture was stirred at mom temperature overnight, washed with HCl 1N, and brine. Organic phase was then dried over magnesium sulfate, filtered and concentrated to give 23.5 g of a white solid. This crude was purified by flash chromatography using DCM/MeOH 95:5 then DCM/MeOH/AcOH 90:10:0.1.

reactant | piperazine-2-carboxylic acid dihydrochlorid | 68.70 mmol, 13.95 g | Cl.Cl.N1C(CNCC1)C(=O)O
reactant | NaOH | 5 N, 48 ml | [OH-].[Na+]
reactant | 4-tert-butylbenzenesulfonylchloride | 75.57 mmol, 17.586 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
solvent | water dioxane | 280 ml | O.O1CCOCC1
solvent | dioxane | 140 ml | O1CCOCC1 | C4H8O2
product | 4-(4-tert-butylphenyl-sulfonyl)piperazine-2-carboxylic acid | 17.3 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1CC(NCC1)C(=O)O | C15H22N2O4S
